US05059242
Silver neodecanoate (D.1)
Ammonia liquor (SG 0.88, 36 ml, 0.6 mole) was added dropwise to neodecanoic acid (95%, 103.2 g, 0.6 mole; Exxon purified by vacuum distillation) in ice-cooled distilled water (200 ml). The resulting ammonium neodecanoate soap was stirred at ambient temperature for 90 minutes, and then silver nitrate (101.94 g. 0.6 mole) in distilled water (120 ml) was added dropwise. The resultant white semi-solid was tritrated 4 times each with cold and warm (50° C.) distilled water, slurried in methanol (400 ml), filtered off and dried overnight at 40° C. under vacuum. Contains 30 wt% silver; yield 64% w.r.t. silver.

reactant | Ammonia | N | H3N
reactant | neodecanoic acid | 0.6 mole, 103.2 g | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | silver nitrate | 0.6 mole, 101.94 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 120 ml | O | H2O
product | Silver neodecanoate | yield 64% | C(CCCCCC(C)(C)C)(=O)[O-].[Ag+] | InChI=1S/C10H20O2.Ag/c1-10(2,3)8-6-4-5-7-9(11)12;/h4-8H2,1-3H3,(H,11,12);/q;+1/p-1
